US06294532B1
Diethyl azodicarboxylate (100 μl; 0.63 mmol) was added dropwise to a solution of 7-hydroxy-4-(2-methoxyethylsulphanyl)quinazoline (100 mg, 0.42 mmol), (prepared as described for the starting material in Example 11), 3-(1,1-dioxothiomorpholino)-1-propanol (99 mg, 0.51 mmol) and triphenylphosphine (167 mg, 0.63 mmol) in methylene chloride (6 ml). After stiring for 4 hours, triphenylphosphine (167 mg, 0.63 mmol) and diethyl azodicarboxylate (100 μl, 0.63 mmol) were added and stirring was continued for 1 hour. The volatiles were removed by evaporation and the residue was purified by column chromatography eluting with ethyl acetate/methanol (100/0 followed by 92/8). After removal of the solvent by evaporation, the residue was triturated with ether and the solid was collected by filtration and dried under vacuum to give 7-(3-(1,1-dioxothiomorpholino)propoxy)4-(2-methoxyethylsulphanyl)quinazoline (72 mg, 41%).

reactant | Diethyl azodicarboxylate | 0.63 mmol, 100 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 7-hydroxy-4-(2-methoxyethylsulphanyl)quinazoline | 0.42 mmol, 100 mg | OC1=CC=C2C(=NC=NC2=C1)SCCOC | C11H12N2O2S
reactant | 3-(1,1-dioxothiomorpholino)-1-propanol | 0.51 mmol, 99 mg | O=S1(CCN(CC1)CCCO)=O | C7H15NO3S
reactant | triphenylphosphine | 0.63 mmol, 167 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 0.63 mmol, 167 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.63 mmol, 100 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 7-(3-(1,1-dioxothiomorpholino)propoxy)4-(2-methoxyethylsulphanyl)quinazoline | 72 mg, 41% | O=S1(CCN(CC1)CCCOC1=CC=C2C(=NC=NC2=C1)SCCOC)=O | C18H25N3O4S2
